US08440652B2
To a suspension of P2O5 (25.4 g, 179.0 mmol) in methanesulfonic acid (100 mL) was added 3-(thiophen-3-yl)propanoic acid (5.0 g, 32.0 mmol) and the reaction was stirred at room temperature for 1 h. At completion, the reaction was concentrated and the residue was purified by flash chromatography (20-30% EtOAc/hexane eluent) to give 4H-cyclopenta[b]thiophen-6(5H)-one (1.34 g, 30% yield) as a brown solid. 1H NMR (300 MHz, MeOH) δ ppm 8.14 (d, J=4.8 Hz, 1H), 7.17 (d, J=4.8 Hz, 1H), 2.94-3.15 (m, 4H); MS (EI) m/z=139.2 [M+1]+.

reactant | P2O5 | 179.0 mmol, 25.4 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 3-(thiophen-3-yl)propanoic acid | 32.0 mmol, 5.0 g | S1C=C(C=C1)CCC(=O)O | C7H8O2S
solvent | methanesulfonic acid | 100 mL | CS(=O)(=O)O | CH4O3S
product | 4H-cyclopenta[b]thiophen-6(5H)-one | 1.34 g, 30% yield | S1C2=C(C=C1)CCC2=O | C7H6OS
